US06242599B1
In the process based on TAHP sulfate described above, 2,4-diamino-5-formylamino-6-hydroxypyrimidine (referred to as DAFHP below) is passed through as an intermediate, which is reacted in situ to produce guanine.

reactant | sulfate | S(=O)(=O)([O-])[O-]
reactant | 2,4-diamino-5-formylamino-6-hydroxypyrimidine | NC1=NC(=C(C(=N1)N)NC=O)O | C5H7N5O2
product | guanine | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
